US09403798B2
2-Bromo-N-[3-(4-fluorophenyl)-2-hydroxypropyl]acetamide
To a dichloromethane suspension (16 mL) of 1-amino-3-(4-fluorophenyl)propan-2-ol hydrochloride (0.75 g, 3.64 mmol) synthesized in Reference Synthesis Example 41, triethylamine (0.92 g, 9.10 mmol) and bromoacetyl bromide (0.88 g, 4.37 mmol) were added at 0° C. and the resultant solution was stirred for 0.5 hours. After completion of the reaction, water was added thereto and extraction with chloroform from the resultant mixture was performed. The obtained organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain the title compound (1.03 g, yield 97%).

reactant | dichloromethane | 16 mL | ClCCl | CH2Cl2
reactant | 1-amino-3-(4-fluorophenyl)propan-2-ol hydrochloride | 3.64 mmol, 0.75 g | Cl.NCC(CC1=CC=C(C=C1)F)O
reactant | triethylamine | 9.10 mmol, 0.92 g | C(C)N(CC)CC | C6H15N
reactant | bromoacetyl bromide | 4.37 mmol, 0.88 g | BrCC(=O)Br | C2H2Br2O
solvent | water | O | H2O
product | 2-Bromo-N-[3-(4-fluorophenyl)-2-hydroxypropyl]acetamide | 1.03 g, yield 97% | BrCC(=O)NCC(CC1=CC=C(C=C1)F)O | C11H13BrFNO2
